US04950674
4-[Bis(4-fluorophenyl)methyl]-1-[3-(4-ethyl-2-methoxyphenoxy)-propyl]piperidine oxalate [1:1]
A mixture of 4-[bis(4-fluorophenyl)methyl]piperidine (5.74 g, 0.024 mole), 1-[4-(3-chloropropoxy)-2-methoxyphenyl]ethanone (5.57 g, 0.024 mole), and potassium carbonate (5.54 g, 0.04 mole) was heated overnight at gentle reflux in 350 ml of 1-butanol containing potassium iodide (0.2 g). The reaction mixture was concentrated to dryness. The residue was partitioned several times between chloroform and water. The chloroform layer was back extracted with water and 5% sodium hydroxide. The chloroform layer was dried over sodium sulfate, filtered, and solvent removed to give an oil. The oil was converted to the oxalate salt and recrystallized from methanol-ethyl ether. A white solid was obtained and dried overnight in vacuo at 80° C. to give 10.04 g (73.4% yield) of white, crystalline product, mp 185°-186° C.

reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | 0.024 mole, 5.74 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | 1-[4-(3-chloropropoxy)-2-methoxyphenyl]ethanone | 0.024 mole, 5.57 g | ClCCCOC1=CC(=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | potassium carbonate | 0.04 mole, 5.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | 1-butanol | 350 ml | C(CCC)O | C4H10O
product | 4-[Bis(4-fluorophenyl)methyl]-1-[3-(4-ethyl-2-methoxyphenoxy)-propyl]piperidine oxalate | 73.4% yield | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=C(C=C(C=C1)CC)OC)C1=CC=C(C=C1)F | InChI=1S/C30H35F2NO2.C2H2O4/c1-3-22-5-14-28(29(21-22)34-2)35-20-4-17-33-18-15-25(16-19-33)30(23-6-10-26(31)11-7-23)24-8-12-27(32)13-9-24;3-1(4)2(5)6/h5-14,21,25,30H,3-4,15-20H2,1-2H3;(H,3,4)(H,5,6)
